US05047411
A mixture of acetic anhydride (1.13 ml) and formic acid (0.45 ml) was stirred at 50° C. for 40 minutes. Tetrahydrofuran (10 ml) and 2-ethylamino-6-[2-(2-furyl)ethyl]benzoxazole (1.02 g) was added thereto and the mixture was stirred at the same temperature for further 6 hours. After cooling, the mixture was neutralized with aqueous sodium bicarbonate and extracted with ethyl acetate. The extract was washed with water dried over magnesium sulfate and evaporated in vacuo to give 2-(N-ethylformamido)-6-[2-(2-furyl)ethyl]benzoxazole (1.18 g).

reactant | acetic anhydride | 1.13 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.45 ml | C(=O)O | CH2O2
reactant | 2-ethylamino-6-[2-(2-furyl)ethyl]benzoxazole | 1.02 g | C(C)NC=1OC2=C(N1)C=CC(=C2)CCC=2OC=CC2 | C15H16N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(N-ethylformamido)-6-[2-(2-furyl)ethyl]benzoxazole | 1.18 g | C(C)N(C=O)C=1OC2=C(N1)C=CC(=C2)CCC=2OC=CC2 | C16H16N2O3
